US08492582B2
Potassium carbonate (0.15 g) and azetidine hydrochloride (0.046 g) were added to a 1-methyl-2-pyrrolidone (1.3 mL) solution of methyl 2-(2-(benzyloxy)-5-(2-bromoethoxy)benzamido)-4-phenylbenzoate (0.25 g), followed by stirring at 90° C. for 45 minutes. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-90% chloroform/methanol] to obtain 0.088 g of methyl 2-(5-(2-(azetidin-1-yl)ethoxy)-2-(benzyloxy)benzamido)-4-phenylbenzoate as a light yellow oily substance.

reactant | Potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | azetidine hydrochloride | 0.046 g | Cl.N1CCC1
reactant | 1-methyl-2-pyrrolidone | 1.3 mL | CN1C(CCC1)=O | C5H9NO
reactant | methyl 2-(2-(benzyloxy)-5-(2-bromoethoxy)benzamido)-4-phenylbenzoate | 0.25 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCBr | C30H26BrNO5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 2-(5-(2-(azetidin-1-yl)ethoxy)-2-(benzyloxy)benzamido)-4-phenylbenzoate | 0.088 g | N1(CCC1)CCOC=1C=CC(=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C1)OCC1=CC=CC=C1 | C33H32N2O5
